US07482341B2
Step B]: 5-(2-Fluoro-ethoxymethyl)-6-methyl-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-[5-(2-Fluoro-ethoxymethyl)-6-methyl-pyridin-2-yl]-2,2-dimethyl-propionamide (0.165 g) and 3M aqueous NaOH (1.23 mL) as an gum (0.174 g) that was used directly in the next step.

reactant | N-[5-(2-Fluoro-ethoxymethyl)-6-methyl-pyridin-2-yl]-2,2-dimethyl-propionamide | 0.165 g | FCCOCC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C14H21FN2O2
reactant | NaOH | 3M, 1.23 mL, 0.174 g | [OH-].[Na+]
product | 5-(2-Fluoro-ethoxymethyl)-6-methyl-pyridin-2-ylamine | FCCOCC=1C=CC(=NC1C)N | C9H13FN2O
